US09193726B2
Step 1. Synthesis of trans-2-[(2-hydroxyethyl)amino]cyclopentanol (C21)
A mixture of 6-oxabicyclo[3.1.0]hexane (3.00 g, 35.7 mmol) and 2-aminoethanol (2.18 g, 35.7 mmol) in ethanol (15 mL) was stirred at 80° C. in a sealed tube for 16 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. Purification using silica gel chromatography (Eluant: methanol in dichloromethane) afforded the title compound. Yield: 1.6 g, 11 mmol, 31%. 1H NMR (400 MHz, DMSO-d6) δ 4.43-4.64 (br m, 2H), 3.68-3.75 (m, 1H), 3.44 (t, J=5.6 Hz, 2H), 2.71-2.77 (m, 1H), 2.58-2.63 (m, 2H), 1.73-1.89 (m, 2H), 1.47-1.64 (m, 2H), 1.34-1.44 (m, 1H), 1.17-1.28 (m, 1H).

reactant | 6-oxabicyclo[3.1.0]hexane | 35.7 mmol, 3.00 g | C12CCCC2O1 | C5H8O
reactant | 2-aminoethanol | 35.7 mmol, 2.18 g | NCCO | C2H7NO
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | trans-2-[(2-hydroxyethyl)amino]cyclopentanol | OCCN[C@H]1[C@@H](CCC1)O | C7H15NO2
